US06545102B1
Merrifield's peptide resin (Aldrich, 1.1 meq/g of Cl), 50.1 g was stirred in 250 mL of CH2Cl2 with 132.3 g of tri-n-butylphosphine under argon for 1 week. The slurry was filtered and the beads washed with 1.5 L of CH2Cl2. The product was dried in the air and then under vacuum to produce 61.9 g of tributylphosphonium chloride substituted polymer.

reactant | Merrifield's peptide resin | C=CC1=CC=CC=C1.C=CC1=CC=C(C=C1)C=C.C1=CC=C(C=C1)CCl
reactant | tri-n-butylphosphine | 132.3 g | C(CCC)P(CCCC)CCCC | C12H27P
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
product | tributylphosphonium chloride | 61.9 g | [Cl-].C(CCC)[PH+](CCCC)CCCC | InChI=1S/C12H27P.ClH/c1-4-7-10-13(11-8-5-2)12-9-6-3;/h4-12H2,1-3H3;1H
